US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 47.3 using 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.72 g, 1.55 mmol) and 4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.88 g, 1.52 mmol) to give the title compound: Rf=0.26 (silica gel, dichloromethane/methanol/concentrated aqueous ammonia 90/10/0.1).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.55 mmol, 0.72 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OC | C23H29NO7S
reactant | 4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 1.52 mmol, 0.88 g | I.FC1=CC=C(CN2C(=NC3=C2C=CC=C3)N3CCNCCC3)C=C1
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C41H46FN5O4
